US06750049B1
A solution consisting of 0.4 g of NaOH (10 mmol) dissolved in 10 mL H2O was freeze-thaw degassed three times under Ar. This solution was then added via cannula under Ar to a 250 mL Parr bottle containing 1,2,3,4-tetrahydroxybenzene (1.42 g, 10 mmol) and 5% Rh/Al2O3 (0.25 g), which had been flushed with Ar and then sealed with a septum. The resulting red/brown solution was hydrogenated under 50 psi. H2 using a Parr Hydrogenator. After 12 h, the solution was filtered through Celite® and the catalyst rinsed with 10 mL H2O. The resulting dark brown solution was adjusted to pH=6.0 with 10% HCl and then concentrated to a brown oil. The oil was dissolved in 50 mL 0.5 M H2SO4 that had been degassed by aeration with Ar for 20 minutes. The solution was heated to reflux under Ar for 12 h, cooled to room temperature, and then extracted with Et2O (4×50 mL). The combined organic layers were dried over MgSO4, filtered and concentrated to a brown oil. Kugel-Rohr distillation of the oil under vacuum (1 mm Hg) at 90° C. afforded 0.56 g pyrogallol (4.44 mmol, 44% yield) as a white, crystalline solid.

reactant | NaOH | 10 mmol, 0.4 g | [OH-].[Na+]
reactant | 1,2,3,4-tetrahydroxybenzene | 10 mmol, 1.42 g | OC1=C(C(=C(C=C1)O)O)O | C6H6O4
solvent | H2O | 10 mL | O | H2O
catalyst | Rh/Al2O3 | 0.25 g | [Rh] | Rh
product | pyrogallol | 4.44 mmol, 0.56 g, 44% yield | C1(O)=C(O)C(O)=CC=C1 | C6H6O3
